US09353107B2
Step-ii: 3-(1-(3-fluorobenzyl)-5-methyl-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(5-(3-(1-(3-fluorobenzyl)-5-methyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazine-1-carboxylate (250 mg, 0.34 mmol) was deprotected in HCl in ether (5 ml) to afford 270 mg (crude) of the titled compound. MS: m/z=622.5 (M+1).

reactant | tert-butyl 4-(5-(3-(1-(3-fluorobenzyl)-5-methyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazine-1-carboxylate | 0.34 mmol, 250 mg | FC=1C=C(CN2N=CC(=C2C)C2=CN(C3=NC=C(C=C32)C=3C=CC(=NC3)N3CCN(CC3)C(=O)OC(C)(C)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C39H40FN7O4S
reactant | HCl | Cl | ClH
solvent | ether | 5 ml | CCOCC | C4H10O
product | 3-(1-(3-fluorobenzyl)-5-methyl-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride | Cl.FC=1C=C(CN2N=CC(=C2C)C2=CN(C3=NC=C(C=C32)C=3C=NC(=CC3)N3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | InChI=1S/C34H32FN7O2S.ClH/c1-23-6-9-29(10-7-23)45(43,44)42-22-32(31-20-39-41(24(31)2)21-25-4-3-5-28(35)16-25)30-17-27(19-38-34(30)42)26-8-11-33(37-18-26)40-14-12-36-13-15-40;/h3-11,16-20,22,36H,12-15,21H2,1-2H3;1H
